US09145380B2
2-[2-(4-Chloro-2-methoxy-phenyl)-ethenesulfonylamino]-benzenesulfonamide
2-Aminobenzene sulfonamide (194 mg, 1.13 mmol) was added in one portion to a solution of 2-(4-chloro-2-methoxyphenyl)-ethenesulfonyl chloride (300 mg, 1.13 mmol) in pyridine (3 mL) at RT. After 1 h stirring, no more starting material was detected by tlc. The reaction mixture was concentrated and the residue was taken up in ethyl acetate with a small amount of methanol. The organic phase was washed with 1N HCl, saturated sodium bicarbonate, dried over MgSO4 and concentrated under reduced pressure. The crude product was purified on silica gel using DCM/methanol, 99:1 to afford material which was further purified by recrystallization from methanol to give the title compound (184 mg, 41%) as a white solid.

reactant | 2-Aminobenzene sulfonamide | 1.13 mmol, 194 mg | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | 2-(4-chloro-2-methoxyphenyl)-ethenesulfonyl chloride | 1.13 mmol, 300 mg | ClC1=CC(=C(C=C1)C=CS(=O)(=O)Cl)OC | C9H8Cl2O3S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-[2-(4-Chloro-2-methoxy-phenyl)-ethenesulfonylamino]-benzenesulfonamide | 184 mg, 41% | ClC1=CC(=C(C=C1)C=CS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N)OC | C15H15ClN2O5S2
